US08133882B2
To a 5 ml THF solution of 119 mg of 60% sodium hydride was added 598 μl of ethyl(diethoxyphosphoryl)acetate at 0° C., followed by stirring for 30 minutes. A 5 ml THF solution of 400 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(2-oxopropoxy)quinolin-4(1H)-one was added thereto at the same temperature, followed by stirring at room temperature for 2 hours. To the reaction mixture was added aqueous saturated ammonium chloride, followed by extraction with ethyl acetate. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate, and concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 200 mg of ethyl (2E)-4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-3-methylbut-2-enoate.

reactant | sodium hydride | 119 mg | [H-].[Na+]
reactant | ethyl(diethoxyphosphoryl)acetate | 598 μl | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(2-oxopropoxy)quinolin-4(1H)-one | 400 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCC(C)=O)=O)F | C23H29FN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | ethyl (2E)-4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-3-methylbut-2-enoate | 200 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OC/C(=C/C(=O)OCC)/C)=O)F | C27H35FN2O4
